US05091535
1.6 g of 5,10-dihydro-pyrido[3,4-g]isoquinoline and 0.32 g of palladium-on-charcoal was dispersed and mixed in 100 cc of dimethoxyethyl ether, and refluxed for 15 hours under argon atmosphere. After the filtration of palladium-on-charcoal and solvent was evaporated to obtain crude pyrido[3,4-g]isoquinoline. The product was purified by preparative liquid chromatography (gel; R-055-15, S16SIL, YMC Ltd., developing solvent; ethyl alcohol/benzene=3/7). The yield of the compound was 1.3 g (95%) and its m.p. was 174° C. The compound was identified as pyrido [3,4-g]isoquinoline based upon the following elemental analysis.

reactant | 5,10-dihydro-pyrido[3,4-g]isoquinoline | 1.6 g | C1=NC=CC2=C1CC=1C=CN=CC1C2 | C12H10N2
solvent | dimethoxyethyl ether | 100 cc | COC(COCC(OC)OC)OC | C8H18O5
catalyst | palladium-on-charcoal | 0.32 g | [Pd] | Pd
product | pyrido[3,4-g]isoquinoline | C1=NC=CC=2C1=CC=1C=CN=CC1C2 | C12H8N2
